US06455587B1
Preparation of Nε-(3-Nitrobenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine (Compound No. 139)
Nα-(9-fluorenylmethoxycarbonyl)-L-lysine was reacted with 3-nitrobenzenesulfonyl chloride under the conditions used in example 2 giving 42% of the title compound.

reactant | Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCN)C(=O)O | C21H24N2O4
reactant | 3-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
product | Nε-(3-Nitrobenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | 42% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCCCC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C27H27N3O8S
